US20010053779A1
A mixture comprising 3,4-diaminopyridine (51.7 g, 0.46 mol), ethyl 2-(N-ethoxyamidino)propionoate hydrochloride (125 g, 0.69 mol) and glacial acetic acid (200 mL) was heated at 85° C. and stirred for 18 hours and then heated at 120° C. and stirred for an additional hour. The mixture was cooled to room temperature and concentrated in vacuo. The residue was neutralized by addition of an excess of 5M aqueous ammonium hydroxide and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate and then saturated aqueous sodium chloride, dried (MgSO4), filtered and concentrated in vacuo to provide ethyl 1H-imidazo[4,5-c]pyridine-2-carboxylate (60.4 g, 58% yield); 1H NMR (300 MHz, CDCl3): 9.00 (s, 1H), 8.45 (d, 1H), 7.50 (d, 1H), 4.25 (q, 2H), 3.90 (q, 1H), 1.75 (d, 3H), 1.25 (tr, 3H).

reactant | 3,4-diaminopyridine | 0.46 mol, 51.7 g | NC=1C=NC=CC1N | C5H7N3
reactant | ethyl 2-(N-ethoxyamidino)propionoate hydrochloride | 0.69 mol, 125 g | Cl.C(C)ONC(=N)C(C(=O)OCC)C
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | ethyl 1H-imidazo[4,5-c]pyridine-2-carboxylate | 60.4 g, 58% yield | N1C(=NC=2C=NC=CC21)C(=O)OCC | C9H9N3O2
